US08669250B2
3,4-Dihydro-8-fluoro-2H-1,4-benzoxazine-2-ethyl carboxylate (5b)
A mixture of 2-amino-6-fluorophenol (2 g, 8.3 mmol), of ethyl 2,3-dibromopropionate (1.46 mL, 9.96 mmol) and of K2CO3 (3.44 g, 24.9 mmol) in acetone (80 mL) is heated under reflux for 9 h 15 min. The mixture is cooled and filtered. The filtrate is vacuum concentrated, the residue dissolved in iced aqueous NaOH solution (1N, 10 mL) and extracted with ethyl ether. The ethereal phase is washed in water then saline water, dried over MgSO4 and concentrated under reduced pressure. The residue is purified by filtering though silica gel using dichoromethane as eluting solvent. The title compound is obtained in oil form (1.1 g, 59%).

reactant | 2-amino-6-fluorophenol | 8.3 mmol, 2 g | NC1=C(C(=CC=C1)F)O | C6H6FNO
reactant | ethyl 2,3-dibromopropionate | 9.96 mmol, 1.46 mL | BrC(C(=O)OCC)CBr | C5H8Br2O2
reactant | K2CO3 | 24.9 mmol, 3.44 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 80 mL | CC(=O)C | C3H6O
product | 3,4-Dihydro-8-fluoro-2H-1,4-benzoxazine 2-ethyl carboxylate | FC1=CC=CC=2NCCOC21.CCC(=O)[O-] | InChI=1S/C8H8FNO.C3H6O2/c9-6-2-1-3-7-8(6)11-5-4-10-7;1-2-3(4)5/h1-3,10H,4-5H2;2H2,1H3,(H,4,5)/p-1
